US05256293
4-(6,7-Dimethyl-2-naphthyl)butanoic acid (6.21 g, 0.026 mole) was added to 40 ml of CH3SO3H. The mixture was heated to 90° C. until all solid material disappeared (about 30 min.). The mixture was poured into ice and then extracted twice with ethylacetate. Combined ethylacetate solution was dried over anhydrous Na2SO4 and then concentrated. After flash chromatography on silica gel, 6,7-Dimethyl-4-oxo-1,2,3,4-tetrahydrophenanthrene was obtained as a pale yellow solid material (4.96 g, 0.022 mole, 85% yield). mp 114.0°-115.0° C., 1H NMR (CDCl3)δ 2.12-2.20 (m,2H), 2.41 (s,3H), 2.47 (s,3H), 2.77 (t, J=6.4 Hz,2H), 3.09 (t, J=6.4 Hz,2H), 7.21 (d, J=8.3 Hz,1H), 7.54 (s,1H), 7.31 (d, J=8.3 Hz,1H), 9.20 (s,1 H), IR (KBr) cm-1 2930, 1669, 1590, 1510, Anal. Calcd. for C16H16O: C, 85.67; H, 7.19. Found: C, 86.00; H, 7.18.

reactant | 4-(6,7-Dimethyl-2-naphthyl)butanoic acid | 0.026 mole, 6.21 g | CC=1C=C2C=CC(=CC2=CC1C)CCCC(=O)O | C16H18O2
solvent | CH3SO3H | 40 ml | CS(=O)(=O)O | CH4O3S
product | 6,7-Dimethyl-4-oxo-1,2,3,4-tetrahydrophenanthrene | CC=1C=C2C=3C(CCCC3C=CC2=CC1C)=O | C16H16O
